US06376426B1
168A Preparation of 4-Chloro-indazol-1-ylamine
Sodium hydride (60 % wt suspension in mineral oil; 0.33 g, 8.3 mmol) is suspended in dry tetrahydrofuran (THF, 10 mL) and is cooled to 0° C. A mixture of 4-chloroindazole (1.05 g, 6.9 mmol) and THF (10 mL) is added to the slurry at 4° C. After the addition is completed, the mixture is stirred for 30 min. Then a mixture of O-mesitylenesulfonylhydroxylamine (1.25 g, 7 mmol) and THF (10 mL) is added slowly, at a temperature below 5° C. After the addition is completed, the reaction mixture is allowed to reach room temperature and is subsequently stirred for 3 h. Then the mixture is cooled again to 0° C., and a second aliquot of O-mesitylenesulfonylhydroxylamine (1.25 g, 7 mmol) in THF (10 mL) is added slowly. The mixture is allowed to reach ambient temperature and is subsequently stirred overnight. The reaction mixture is worked up by adding it to water, extracting into ethyl acetate, and drying over sodium sulfate. The crude product (1.2 g) is obtained after filtration of the drying agent and evaporation of the solvent. This material is used for the next reaction step without purification.

reactant | Sodium hydride | 8.3 mmol, 0.33 g | [H-].[Na+]
reactant | 4-chloroindazole | 6.9 mmol, 1.05 g | ClC1=C2C=NNC2=CC=C1 | C7H5ClN2
reactant | O-mesitylenesulfonylhydroxylamine | 7 mmol, 1.25 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | O-mesitylenesulfonylhydroxylamine | 7 mmol, 1.25 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | O1CCCC1 | C4H8O
product | 4-Chloro-indazol-1-ylamine | 1.2 g | ClC1=C2C=NN(C2=CC=C1)N | C7H6ClN3
